************************************************************************
* auCdl Netlist:
* 
* Library Name:  MAL_BLOCK
* Top Cell Name: charge_pump_schmitt
* View Name:     schematic
* Netlisted on:  May 29 02:49:52 2015
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MAL_BLOCK
* Cell Name:    charge_pump_schmitt
* View Name:    schematic
************************************************************************

.SUBCKT charge_pump_schmitt OUT Signal VDD VSS
*.PININFO Signal:I OUT:O VDD:B VSS:B
MM11 vcap VSS VSS VSS nch l=200n w=550.0n m=1
MM0 net8 Signal vcap VSS nch l=100n w=120.0n m=1
MM15 net8 Signal VDD VDD pch_hvt l=100n w=120.0n m=1
MM10 VSS OUT net17 VDD pch l=100n w=120.0n m=1
*MM14 VDD net8 VDD VDD pch_hvt l=100n w=120.0n m=1
MM1 net028 vcap VSS VSS nch_25ud18 l=260n w=400n m=1
MM4 OUT vcap net028 VSS nch_25ud18 l=260n w=400n m=1
MM9 VSS vcap VSS VSS nch_25ud18 l=600n w=510.0n m=5
MM7 VDD OUT net028 VSS nch_hvt l=200n w=120.0n m=1
MM5 net17 vcap VDD VDD pch_25ud18 l=260.0n w=400n m=1
MM6 OUT vcap net17 VDD pch_25ud18 l=260.0n w=400n m=1
.ENDS

