************************************************************************
* auCdl Netlist:
* 
* Library Name:  QQ
* Top Cell Name: charge_pump_schmitt_no_IO
* View Name:     schematic
* Netlisted on:  May 28 02:13:53 2015
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: QQ
* Cell Name:    charge_pump_schmitt_no_IO
* View Name:    schematic
************************************************************************

.SUBCKT charge_pump_schmitt_no_IO OUT Signal VDD VSS
*.PININFO Signal:I OUT:O VDD:B VSS:B
MM6 net033 vcap VSS VSS nch_hvt l=120.0n w=120.0n m=1
MM5 OUT vcap net033 VSS nch_hvt l=120.0n w=120.0n m=1
*MM14 VDD net04 VDD VDD pch_hvt l=60n w=120.0n m=1
MM21 VSS OUT net09 VDD pch_hvt l=100n w=500n m=1
MM3 net04 Signal VDD VDD pch_hvt l=100n w=120.0n m=1
MM1 VSS vcap VSS VSS nch l=200n w=300n m=6
MM10 vcap VSS VSS VSS nch l=200n w=530.0n m=1
MM0 net04 Signal vcap VSS nch l=250.0n w=200n m=1
MM7 VDD OUT net033 VSS nch_hvt l=200n w=120.0n m=1
MM2 net09 vcap VDD VDD pch l=60n w=120.0n m=1
MM4 OUT vcap net09 VDD pch l=60n w=120.0n m=1
MM8 VSS vcap VSS VDD pch l=200n w=300n m=6
.ENDS

